US07358253B2
d) (3-Trifluoromethanesulfonyloxy-naphthalen-1-yl)-acetic acid ethyl ester
(3-Hydroxy-naphthalen-1-yl)-acetic acid ethyl ester (1.67 g, 7.25 mmol) is dissolved in CH2Cl2 (20 ml) under an atmosphere of argon. Pyridine (1.17 ml, 1.15 g, 14.50 mmol) is added, and the reaction mixture is cooled to 0° C., whereupon trifluoromethanesulfonic anhydride (1.79 ml, 3.07 g, 10.88 mmol) is added dropwise. The reaction mixture is warmed to RT, and after 1 h a RT, TLC analysis indicates complete consumption of starting material. The reaction mixture is diluted with EtOAc and washed twice with H2O. The combined organic layers are dried over Na2SO4, the solvent is removed, and the residue is purified by FCC (hexanes/EtOAc 100:0 to 97:3 to 95:5 to 93:7 to 90:10) to yield the title compound. 1H NMR (DMSO, 400 MHz) δ 1.19 (t, J=7.2 Hz, 3H), 4.11 (q, J=7.2 Hz, 2H), 4.38 (s, 2H), 7.60 (d, J=3.0 Hz, 1H), 7.70 (m, 2H), 8.03 (m, 1H), 8.12 (m, 2H); ES-MS: 362 [M+H]+.

reactant | (3-Hydroxy-naphthalen-1-yl)-acetic acid ethyl ester | 7.25 mmol, 1.67 g | C(C)OC(CC1=CC(=CC2=CC=CC=C12)O)=O | C14H14O3
reactant | Pyridine | 14.50 mmol, 1.17 ml, 1.15 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 10.88 mmol, 1.79 ml, 3.07 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | (3-Trifluoromethanesulfonyloxy-naphthalen-1-yl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC2=CC=CC=C12)OS(=O)(=O)C(F)(F)F)=O | C15H13F3O5S
